* Schematics Netlist *



V_VDD         $N_0001 0 2.5V
V_VIN         vin 0 DC 1V AC 1V
+SIN 1.25V 1V 1k 0 0 0
M_M2         vout vin $N_0001 $N_0001 PMOS5  
+ L=0.25um  
+ W=7.6um         
M_M1         vout vin 0 0 NMOS5  
+ L=0.25um  
+ W=3um         
