* Schematics Netlist *



X_U2A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         $N_0003 $N_0004 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0001 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
X_U3A         $N_0002 $N_0004 $N_0005 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0001 $N_0004 $N_0006 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0002 $N_0003 $N_0007 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0001 $N_0003 $N_0008 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0009 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1ms 1  
+ 2ms 0  
+ 3ms 1 
X_U10A         $N_0009 $N_0008 $N_0010 $G_DPWR $G_DGND 74126 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         $N_0009 $N_0007 $N_0011 $G_DPWR $G_DGND 74126 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0009 $N_0006 $N_0012 $G_DPWR $G_DGND 74126 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0009 $N_0005 $N_0013 $G_DPWR $G_DGND 74126 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0003 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
