* Schematics Netlist *



R_R1         discharge $N_0001  1k  
C_C2         0 $N_0002  1n  
C_C1         0 discharge  1n  
X_X1         0 trig out $N_0001 $N_0002 discharge discharge $N_0001 555D
+  PARAMS: MAXFREQ=3E6
R_R2         out 0  40k  
V_V1         $N_0001 0 5V
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ trig 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 1us 0  
+ 15us 1  
+ 30us 0 
+ 39us 1  
