* Schematics Netlist *



R_R1         vout $N_0001  3k  
V_V2         $N_0001 0 2.5V
M_M1         vout vin 0 0 NMOS5  
+ L=0.25um  
+ W=5um         
V_V1         vin 0 DC 1V AC 1V
+SIN 1.25V 200mV 2k 0 0 0
