* Schematics Netlist *



X_U1         $N_0001 A4 A5 A6 A7 B4 B5 B6 B7 $N_0002 S10 S11 S12 S13 $G_DPWR
+  $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17         $D_LO $N_0003 $N_0004 $N_0005 $N_0006 $N_0007 $N_0008 $N_0009
+  $N_0010 $N_0001 S00 S01 S02 S03 $G_DPWR $G_DGND 74157 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         $N_0012 $N_0013 $N_0001 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         $D_LO $D_LO $D_HI $D_HI $D_LO $N_0003 $N_0005 $N_0007 $N_0009
+  $N_0012 $N_0004 $N_0006 $N_0008 $N_0010 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         $D_LO A0 A1 A2 A3 B0 B1 B2 B3 $N_0013 $N_0003 $N_0005 $N_0007
+  $N_0009 $G_DPWR $G_DGND 7483A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(8,11111111)
+ $G_DPWR $G_DGND
+ A7 A6 A5 A4 A3 A2 A1 A0 
+ IO_STM
+ IO_LEVEL=0
+  0s 00001000  
U_DSTM4         STIM(8,11111111)
+ $G_DPWR $G_DGND
+ B7 B6 B5 B4 B3 B2 B1 B0 
+ IO_STM
+ IO_LEVEL=0
+  0s 00000010  
